US04549019
46.3 g (0.32 mol) of 6-chloro-2,4-diamino-pyrimidine are dissolved in 1000 ml of tetrahydrofuran and treated with 57.9 g (0.517 mol) of potassium tert.butylate. The gel-like precipitate is stirred at room temperature for 1 hour. A solution of 60.5 g (0.48 mol) of 1-methoxycarbonylimidazole in 100 ml of ether is added thereto at a temperature of 10° within 90 minutes. The mixture is thereafter stirred at 25° for a further 2 hours, the solvent is then evaporated under reduced pressure and the residue is dissolved in ethyl acetate. The organic solution is washed with cold water and dried over sodium sulfate. After evaporation of the solvent under reduced pressure, the residue is crystallized from acetone/ether. After recrystallization from chloroform/methanol/hexane, there is obtained methyl 2-amino-6-chloro-4-pyrimidinecarbamate of melting point 225°-226°.

reactant | 6-chloro-2,4-diamino-pyrimidine | 0.32 mol, 46.3 g | ClC1=CC(=NC(=N1)N)N | C4H5ClN4
reactant | 1-methoxycarbonylimidazole | 0.48 mol, 60.5 g | COC(=O)N1C=NC=C1 | C5H6N2O2
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
product | methyl 2-amino-6-chloro-4-pyrimidinecarbamate | NC1=NC(=CC(=N1)NC(=O)OC)Cl | C6H7ClN4O2
